US04892732
The 4-alkoxy-2-morpholino-5-pyrimidinols (D represents alkoxy) can be prepared by reacting a 1:1 mixture of ethyl benzyloxyacetate and ethyl formate with sodium hydride in toluene and the product is then reacted with 4-morpholinecarboximidamide sulfate to give 5-benzyloxy-2-morpholino-4-pyrimidinol. The latter compound is converted to 5-benzyloxy-4-chloro-2-morpholinopyrimidine by reaction with phosphorus oxychloride. The ring chlorine is then replaced by an alkoxy group with an alkali alkoxide to give 4-alkoxy-5-benzyloxy-2-morpholinopyrimidine. The benzyloxy group is then converted to the OH group by hydrogenation in the presence of a solvent and a hydrogenation catalyst.

reactant | ethyl benzyloxyacetate | C(C1=CC=CC=C1)OCC(=O)OCC | C11H14O3
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | sodium hydride | [H-].[Na+]
reactant | 4-morpholinecarboximidamide sulfate | S(=O)(=O)(O)O.N1(CCOCC1)C(N)=N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-benzyloxy-2-morpholino-4-pyrimidinol | C(C1=CC=CC=C1)OC=1C(=NC(=NC1)N1CCOCC1)O | C15H17N3O3
